US07265148B2
Ethyl N-{[3-phenyl-5-(1H-pyrrol-1-yl)-1H-indol-2-yl]carbonyl}-L-phenylalaninate was prepared from 3-phenyl-5-(1H-pyrrol-1-yl)-1H-indole-2-carboxylic acid and L-phenylalanine ethyl ester hydrochloride followed the procedure of Example 2 Step 4 as a pale yellowish solid: 1H NMR (DMSO-d6) δ 1.12 (t, J=7.0 Hz, 3 H), 2.93 (dd, J=13.5, 6.2 Hz, 1 H), 3.05 (dd, J=13.5, 8.0 Hz, 1H), 4.08 (q, J=7.0 Hz, 2 H), 4.70 (dd, J=8.0, 6.2 Hz, 1 H 6.21 (t, J=2.0 Hz, 1 H), 6.95-7.05 (m, 1 H), 7.20-7.60 (m, 16 H), 11.89 (s, 1 H); MS (ESI) m/z 478 (MH+); MS (ESI) m/z 476 ([M-H]−); HRMS calcd for C30H28N3O3: 478.2131; found (ESI+): 478.2113; Anal. calcd for C30H27N3O3: C, 75.45; H, 5.70; N, 8.80. Found: C, 75.30; H, 5,79; N, 8.72.

reactant | 3-phenyl-5-(1H-pyrrol-1-yl)-1H-indole-2-carboxylic acid | C1(=CC=CC=C1)C1=C(NC2=CC=C(C=C12)N1C=CC=C1)C(=O)O | C19H14N2O2
reactant | L-phenylalanine ethyl ester hydrochloride | Cl.C(C)OC([C@@H](N)CC1=CC=CC=C1)=O
product | Ethyl N-{[3-phenyl-5-(1H-pyrrol-1-yl)-1H-indol-2-yl]carbonyl}-L-phenylalaninate | C1(=CC=CC=C1)C1=C(NC2=CC=C(C=C12)N1C=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC | C30H27N3O3
